US05747502
Synthesis of 2,8-dimethoxy-3,7-dihydroxy-5-methylbenzo[c]phenanthridinium chloride (compound A-3)
227 mg (0.5 mmol) of 2,8-dimethoxy-3-isopropoxy-7-benzyloxy-benzo[c]phenanthridine (compound D-3) was admixed with 932 mg (5 mmol) of methyl p-toluenesulfonate and 35 mg (0.25 mmol) of anhydrous potassium carbonate, and the resultant mixture was heated to 140° C. for 3.5 hours. Then the mixture was admixed with 6 ml of acetic acid and 3 ml of concentrated hydrochloric acid, and heated to 100° C. for 3 hours. After that, the reaction mixture was gradually added to ice water to obtain a dilute mixture, which was then neutralized by portionwise adding thereto sodium hydrogen carbonate. The neutralized mixture was extracted with chloroform and a small amount of methanol. The extract was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue thus obtained was refined by a silica gel chromatography, wherein use was made, as eluant, of a chloroform-methanol mixture (4:1). The main fractions were collected and concentrated to give a dark violet solid material, which was compound E-3 having a structure represented by the general formula E. Then, compound E-3 was dissolved in a small amount of methanol, and acidified by gradually adding thereto a dilute aqueous solution of hydrochloric acid in an amount of from 1.5 to 3.0 mol per 1 mol of the compound, so that the color of the solution of the compound was changed into yellow or orange. The solution was concentrated under reduced pressure to remove the solvent and the excess hydrochloric acid. The residue thus obtained was compound A-3, wherein X- =Cl-. The amount of compound A-3 produced was 98 mg (yield: 52.7%).

reactant | 2,8-dimethoxy-3-isopropoxy-7-benzyloxy-benzo[c]phenanthridine | 0.5 mmol, 227 mg | COC=1C(=CC2=C(C=CC3=C4C=CC(=C(C4=CN=C23)OCC2=CC=CC=C2)OC)C1)OC(C)C | C29H27NO4
reactant | methyl p-toluenesulfonate | 5 mmol, 932 mg | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | potassium carbonate | 0.25 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 2,8-dimethoxy-3,7-dihydroxy-5-methylbenzo[c]phenanthridinium chloride | yield: 52.7% | [Cl-].COC=1C(=CC2=C(C=CC3=C4C=CC(=C(C4=C[N+](=C23)C)O)OC)C1)O | InChI=1S/C20H17NO4.ClH/c1-21-10-15-12(6-7-17(24-2)20(15)23)13-5-4-11-8-18(25-3)16(22)9-14(11)19(13)21;/h4-10,22H,1-3H3;1H
